Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 History of Present Illness:  
 ___ w/no h/o HTN, otherwise no HLD, Trigeminal neuralgia p/w 
onset of confusion characterized by difficulty "having the 
pieces fall into place" (denies dysarthria, word finding 
difficulty, headache, any numbness, weakness, or tingling, or 
any visual changes) at 3:00, improving since then although still 
present, which began after exerting himself in the subway 
system, was running to catch the train. He has had similar 
episodes occur in the past after exertion. He now denies cough, 
ST, rhinorrhea, abd pain, nausea, vomiting, diarrhea, fever, 
dysuria, frequency, or any chills. Symptoms improving with BP 
improvement, not safe for discharge.  
 In the ED, initial vital signs were: T97.2 P91 BP 199/110 R20 
O2 sat 96% RA  
 - Exam notable for: appears well, hypertensive, obese, stroke 
scale 0  
 - Labs were notable for mild leukocytosis, serum tox neg  
 - Studies performed include CTH neg for bleed, chronic 
microvascular ischemic changes  
 Seen by neuro: recommended BP management, check trops, LFTs, 
MRI without contrast to eval for PRES, extended routine EEG, 
they will follow along  
 -No meds given  
 - Vitals on transfer: 97.9 79 154/93 17 95% RA  
 Upon arrival to the floor, the patient reports feeling well 
now, to his baseline, reports history of similar confusion twice 
this ___, always after exertion (he is physically active, 
symptoms occurred after 2 hour bike ride). He attributed it 
previously to dehydration, and did not seek out medical care. 
Today, he was running for the train, got on, and then when at 
___, was confused, and had to ask police officers for 
direction to next train to his home. He felt "dissociated" and 
unsure what to do. He denies headache, blurry vision, difficulty 
speaking, numbness or weakness. He did have some neck pain 
yesterday, took one hydrocodone tablet, now resolved. He denies 
hx of HTN, was noted to have BP of 190/65 at a urology visit, 
follow up PCP BPs were normal. The acute confusion lasted 
perhaps 20 minutes, but he did not feel back to normal for about 
2 hours, after arrival to the ED.  
 He did present to the ED with hypertensive urgency in ___ with BPs up to 208/120 with associated left sided chest 
pain. He had a stress test and negative troponins x 2 and was 
discharged.  
 
Past Medical History:
 Hypercholesterolemia  
 Mixed conductive and sensorineural hearing loss  
 Trigeminal neuralgia  
 Lyme disease  
 Elevated PSA/BPH (benign prostatic hyperplasia), negative 
biopsies  
 Umbilical hernia  
 Colonic adenoma  
 History of basal cell carcinoma  
 Paronychia  
 Basal cell carcinoma of left side of nose  
 
Social History:
___
Family History:
Family History: Father- CAD/PVD ___ MI age ___, died age ___ due 
to MI , cancer Mother- deceased, arthritis. Older brother died 
of suicide, had migraines. No known family hx of seizures, CVA.  

 
Physical Exam:
ADMISSION EXAM
==============
 Vitals: 97.9 182/97 69 20 95 RA, repeat BP 148/86  
 General: Alert, oriented, no acute distress, sitting up  
 HEENT: Sclera anicteric, PERRL, EOMI, MMM, oropharynx clear, 
neck supple, JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
 Abdomen: soft, non-tender, non-distended, bowel sounds present  

 Ext: Warm, well perfused, no edema  
 Neuro: A&Ox3, speaking in full sentences, no aphasia, pupils 3 
mm bilaterally and reactive, face symmetric, hearing intact to 
finger rub, ___ shoulder shrug, tongue midline, ___ strength in 
UE and ___  

DISCHARGE EXAM
==============
Vitals: Tmax 98 BP 130-180/60-80s HR 60-70s RR ___ on 
RA
General: Alert, oriented, no acute distress, sitting up  
HEENT: Sclera anicteric, PERRL, EOMI, MMM, oropharynx clear, 
neck 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Abdomen: soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, no edema  
Neuro: A&Ox3, speaking in full sentences, no aphasia, pupils 3 
mm bilaterally and reactive, face symmetric, ___ shoulder shrug, 
___ strength in UE and ___ 
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:45PM BLOOD WBC-11.1*# RBC-4.44* Hgb-14.2 Hct-40.7 
MCV-92 MCH-32.0 MCHC-34.9 RDW-11.5 RDWSD-38.8 Plt ___
___ 04:45PM BLOOD Neuts-74.9* Lymphs-15.1* Monos-7.4 
Eos-1.8 Baso-0.3 Im ___ AbsNeut-8.32*# AbsLymp-1.68 
AbsMono-0.82* AbsEos-0.20 AbsBaso-0.03
___ 04:45PM BLOOD ___ PTT-32.6 ___
___ 04:45PM BLOOD Plt ___
___ 04:45PM BLOOD Glucose-107* UreaN-17 Creat-0.8 Na-135 
K-4.0 Cl-98 HCO3-24 AnGap-17
___ 04:45PM BLOOD ALT-22 AST-26 CK(CPK)-242 AlkPhos-61
___ 04:45PM BLOOD CK-MB-6 cTropnT-<0.01
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICRO
=====
None.

IMAGING
=======
___ NCHCT
IMPRESSION: 
No acute intracranial abnormality.  Involutional changes and 
likely chronic
microvascular ischemic changes.

___ MRI BRAIN
IMPRESSION:
1. No acute cortical infarction, edema, or mass on this 
unenhanced study.
2. Scattered foci of microhemorrhage within the left frontal 
lobe, which may be a sequela of hypertension or amyloidosis.
3. Probable chronic small vessel microangiopathy.

DISCHARGE LABS
==============
___ 06:16AM BLOOD WBC-5.9 RBC-4.31* Hgb-13.7 Hct-39.6* 
MCV-92 MCH-31.8 MCHC-34.6 RDW-11.6 RDWSD-39.5 Plt ___
___ 06:16AM BLOOD Plt ___
___ 06:16AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-136 
K-3.8 Cl-100 HCO3-26 AnGap-14
___ 06:16AM BLOOD Calcium-10.1 Phos-2.9 Mg-2.3
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Mr. ___ is a ___ y/o man no history of HTN p/w onset of 
confusion characterized by difficulty "having the pieces fall 
into place" (denied dysarthria, word finding difficulty, 
headache, any numbness, weakness, or tingling, or any visual 
changes) at 3:00 on ___, improved to baseline shortly after 
arriving in the ED.

Patient was notably hypertensive to the 190's SBP initially but 
decreased to 130's without intervention. Neurology was 
consulted, initial concern for hypertensive emergency vs. TIA 
vs. PRES. MRI obtained showing scattered foci of micro 
hemorrhage within the left frontal lobe; no mass lesions, large 
infarcts, or signs of PRES.

Ultimately, no definitive diagnosis made, but patient back at 
baseline. Started on amlodipine for BP control and discharged 
with close neurology follow-up. Systolic blood pressure on day 
of discharge in 150s.

ACTIVE ISSUES
=============
# Confusion: Patient's exam back to baseline on transfer to 
medicine servie, ddx hypertensive encephalopathy vs. PRES vs. 
TIA vs. carotid disease. He had a mild leukocytosis, but no 
signs of infection, no electrolyte imbalances to explain 
presentation. MRI notable for scattered foci of microhemorrhage 
within the left frontal lobe; no mass lesions, large infarcts, 
or signs of PRES. Blood pressure management as below, neurology 
followed and recommended outpatient follow-up and workup 
including EEG and carotid ultrasound.

# Hypertension: Initially presented with SBP of 200, hours after 
initial exertion, with subjective confusion, no focal 
neurological signs, quickly back to baseline mental status. No 
anti-hypertensives at home, baseline SBP 130s. Started 
amlodipine 5mg daily. Patient to follow up with neurology and 
PCP, titrate up to ensure BP control.

# HLD/Primary Prophylaxis: Increased home simvastatin 10 to 20 
mg qpm given ddx including TIA, continued home ASA. 
 
# BPH: Continued home Flomax while monitoring pressures. 

TRANSITIONAL ISSUES
===================
[] Patient started on amlodipine 5mg daily, please titrate up 
for blood pressure control < 140/80
[] Simvastatin increased from 10mg daily to 20mg daily due to 
cardiac risk factors
[] Consider switching from simvastatin to alternative statin due 
to interaction with amlodipine
[] Patient will be contacted on ___ regarding Neurology 
follow-up with Dr. ___ if does not hear from the office, 
should call ___ to ensure appointment 
[] Neurology to determine whether patient warrants further work 
up such as EEG or carotid ultrasound.
# Contact: ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Hypertensive emergency

SECONDARY: Hyperlipidemia, benign prostatic hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You came to the hospital 
because you were having confusion in the setting of your blood 
pressure being higher than normal. The images of your head did 
not show a clear cause for your confusion. We started you on a 
new blood pressure medication called amlodipine. Please follow 
up with your regular doctor to continue to help improve your 
blood pressure.

You will be contacted on ___ regarding Neurology follow-up 
with Dr. ___ if does not hear from their office, you should 
call ___ to ensure appointment is made.

We wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___